US07576089B2
[4-(Trifluoromethyl)pyridin-2-yl]methanol
To a solution of [4-(trifluoromethyl)pyridin-2-yl]methyl acetate (1.0 g, 3.2 mmol) in methanol (10 mL) was added a 1.0 M solution of sodium hydroxide in water (10 mL). After being stirred at room temperature overnight, the solution was diluted with 20 mL of water and extracted with EtOAc twice. The combined organic layers were dried (MgSO4) and concentrated under vacuum. Chromatography on silica gel eluting with hexanes/EtOAc (1:1) afforded the title compound (0.34 g) as a clear oil. MS (M+H) 178.1.

reactant | [4-(trifluoromethyl)pyridin-2-yl]methyl acetate | 3.2 mmol, 1.0 g | C(C)(=O)OCC1=NC=CC(=C1)C(F)(F)F | C9H8F3NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | [4-(Trifluoromethyl)pyridin-2-yl]methanol | 0.34 g | FC(C1=CC(=NC=C1)CO)(F)F | C7H6F3NO
